US06110952
A solution of 5-amino-4-methylbenzoxazole (0.59 g, 3.98 mmol) in dichloromethane (100 mL) is treated with di-2-pyridyl thionocarbonate (1.02 g, 4.39 mmol). The mixture is stirred for two hours. The reaction mixture is concentrated under reduced pressure to yield a brown residue. This material is purified by chromatography (silica-gel, 20% ethyl acetate/hexanes) to afford 0.68 g of 5-isothiocyanato-4-methylbenzoxazole as a white solid.

reactant | 5-amino-4-methylbenzoxazole | 3.98 mmol, 0.59 g | NC=1C=CC2=C(N=CO2)C1C | C8H8N2O
reactant | di-2-pyridyl thionocarbonate | 4.39 mmol, 1.02 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-isothiocyanato-4-methylbenzoxazole | 0.68 g | N(=C=S)C=1C=CC2=C(N=CO2)C1C | C9H6N2OS
